US07534887B2
4a) tert-Butyl 4-(3-((6-chloro-2-naphthyl)thio)propyl)-3-oxopiperazine-1-carboxylate
tert-Butyl 3-oxopiperazine-1-carboxylate (2.0 g) was dissolved in DMF (30 mL), and sodium hydride (0.5 g) was added thereto. With ice cooling, 2-chloro-6-((3-chloropropyl)thio)naphthalene (2.7 g) was added thereto, and the mixture was mixed at 60° C. for 3 hours. The reaction solution was poured into water, then extracted with chloroform, and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified with a silica gel column to give the title compound (4.0 g) as a pale brown oily matter.

reactant | tert-Butyl 3-oxopiperazine-1-carboxylate | 2.0 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 2-chloro-6-((3-chloropropyl)thio)naphthalene | 2.7 g | ClC1=CC2=CC=C(C=C2C=C1)SCCCCl | C13H12Cl2S
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(3-((6-chloro-2-naphthyl)thio)propyl)-3-oxopiperazine-1-carboxylate | 4.0 g | ClC=1C=C2C=CC(=CC2=CC1)SCCCN1C(CN(CC1)C(=O)OC(C)(C)C)=O | C22H27ClN2O3S
